US07271406B2
By the general method for the synthesis of 2-(2,5-dibromophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole in Example 3, the reaction of 3,5-dichlorobenzoyl chloride (20.0 g, 0.010 mole) with 4-octoxybenzoyl hydrazide (25.24 g, 0.010 mole) gave the intermediate 3,5-dichloro-N′-[4-(octyloxy)benzoyl]benzohydrazide (25 g, 60% yield). Cyclocondensation of the intermediate 3,5-dichloro-N′-[4-(octyloxy)benzoyl ]-benzohydrazide (16.0 g) with POCl3 (83 mL) gave 2-(3,5-dichlorophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole (11.16 g, 73% yield).

reactant | 2-(2,5-dibromophenyl)-5-[4-(octyloxy)phenyl]-1,3,4-oxadiazole | BrC1=C(C=C(C=C1)Br)C=1OC(=NN1)C1=CC=C(C=C1)OCCCCCCCC | C22H24Br2N2O2
reactant | 3,5-dichlorobenzoyl chloride | 0.010 mole, 20.0 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
product | 3,5-dichloro-N′-[4-(octyloxy)benzoyl]benzohydrazide | 25 g, 60% yield | ClC=1C=C(C(=O)NNC(C2=CC=C(C=C2)OCCCCCCCC)=O)C=C(C1)Cl | C22H26Cl2N2O3
